US08232285B2
2-{(1R)-1-[(3-aminopropyl)(benzyl)amino]propyl}-3-anilino-7-chloro-3H-quinazolin-4-one (70)
This compound was synthesized as described in general procedure C except 2-{3-[(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-propylamino]-propyl}-isoindole-1,3-dione was used instead of (R)-2-(3-(1-(7-chloro-4-oxo-3-(phenylamino)-3,4-dihydroquinazolin-2-yl)but-3-ynylamino)propyl)isoindoline-1,3-dione and benzaldehyde was used instead of 4-methyl benzaldehyde. Yield (16%). LCMS: m/e 477.04 [M+H].

reactant | 2-{3-[(R)-1-(7-chloro-4-oxo-3-phenylamino-3,4-dihydro-quinazolin-2-yl)-propylamino]-propyl}-isoindole-1,3-dione | ClC1=CC=C2C(N(C(=NC2=C1)[C@@H](CC)NCCCN1C(C2=CC=CC=C2C1=O)=O)NC1=CC=CC=C1)=O | C28H26ClN5O3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 2-{(1R)-1-[(3-aminopropyl)(benzyl)amino]propyl}-3-anilino-7-chloro-3H-quinazolin-4-one | NCCCN([C@H](CC)C1=NC2=CC(=CC=C2C(N1NC1=CC=CC=C1)=O)Cl)CC1=CC=CC=C1 | C27H30ClN5O
